US07273868B2
A mixture of 2-carboxy-3,5-dichloropyrazine (prepared in the above (1)) 226 g, sodium hydrogen carbonate 118 mg, methyl iodide 0.5 ml and dimethylformamide 1.8 ml is stirred at room temperature for 14 hours. The mixture is diluted with a 10% aqueous citric acid solution and extracted with ethyl acetate. The combined organic layer is washed with water and an aqueous saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo to give 2-methoxycarbonyl-3,5-dichloropyrazine as a pale brown crystalline powder 245 mg. mp 60-63° C., MS(m/z): 206(M+)

reactant | 2-carboxy-3,5-dichloropyrazine | C(=O)(O)C1=NC=C(N=C1Cl)Cl | C5H2Cl2N2O2
reactant | sodium hydrogen carbonate | 118 mg | C(O)([O-])=O.[Na+]
reactant | methyl iodide | 0.5 ml | CI | CH3I
reactant | dimethylformamide | 1.8 ml | CN(C=O)C | C3H7NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 2-methoxycarbonyl-3,5-dichloropyrazine | 245 mg | COC(=O)C1=NC=C(N=C1Cl)Cl | C6H4Cl2N2O2
